### PR TITLE
[Merged by Bors] - feat: port Analysis.Normed.Group.Quotient

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/ENNReal.lean [hunk 1]
```diff
@@ -2298,6 +2301,15 @@ section infᵢ
...
 variable {ι : Sort _} {f g : ι → ℝ≥0∞}
 
+theorem toNNReal_infᵢ (hf : ∀ i, f i ≠ ∞) : (infᵢ f).toNNReal = ⨅ i, (f i).toNNReal := by
+  cases isEmpty_or_nonempty ι
+  · rw [infᵢ_of_empty, top_toNNReal, NNReal.infᵢ_empty]
+  · lift f to ι → ℝ≥0 using hf
+    simp only [← coe_infᵢ, toNNReal_coe]
+
+theorem toReal_infᵢ (hf : ∀ i, f i ≠ ∞) : (infᵢ f).toReal = ⨅ i, (f i).toReal := by
+  simp only [ENNReal.toReal, toNNReal_infᵢ hf, NNReal.coe_infᵢ]
```
Comment (eric-wieser) [inline Mathlib/Data/Real/ENNReal.lean:2311]: Am I right in saying I remember seeing these be backported?

Comment (eric-wieser) [reply Mathlib/Data/Real/ENNReal.lean:2311]: (if not, either we should backport them, or we should add a porting note

File: Mathlib/Analysis/Normed/Group/Quotient.lean [hunk 2]
```diff
@@ -0,0 +1,532 @@
...
+    ∃ r : R, Ideal.Quotient.mk I r = x ∧ ‖r‖ < ‖x‖ + ε :=
+  norm_mk_lt x hε
+#align ideal.quotient.norm_mk_lt Ideal.Quotient.norm_mk_lt
+
+set_option synthInstance.etaExperiment true in -- Porting note: gets around lean4#2074
+theorem Ideal.Quotient.norm_mk_le (r : R) : ‖Ideal.Quotient.mk I r‖ ≤ ‖r‖ :=
+  quotient_norm_mk_le I.toAddSubgroup r
+#align ideal.quotient.norm_mk_le Ideal.Quotient.norm_mk_le
+
+set_option synthInstance.etaExperiment true in -- Porting note: gets around lean4#2074
```
Comment (collares) [inline Mathlib/Analysis/Normed/Group/Quotient.lean:503]:
```suggestion
set_option synthInstance.etaExperiment true in -- Porting note: gets around lean4#2074
set_option maxHeartbeats 400000 in
```
How bad would increasing the heartbeat limit to `400000` for the `semiNormedCommRing` instance and to `800000`  for the `normedAlgebra` instance be? It would unblock this PR, and could be reverted when the reenableeta change lands.

File: Mathlib/Analysis/Normed/Group/Quotient.lean [hunk 3]
```diff
@@ -0,0 +1,532 @@
...
+      _ ≤ _ := (sub_lt_iff_lt_add'.mp h.1).le
+#align ideal.quotient.semi_normed_comm_ring Ideal.Quotient.semiNormedCommRing
+
+instance Ideal.Quotient.normedCommRing [IsClosed (I : Set R)] : NormedCommRing (R ⧸ I) :=
+  { Ideal.Quotient.semiNormedCommRing I, Submodule.Quotient.normedAddCommGroup I with }
+#align ideal.quotient.normed_comm_ring Ideal.Quotient.normedCommRing
+
+variable (𝕜 : Type _) [NormedField 𝕜]
+
+instance Ideal.Quotient.normedAlgebra [NormedAlgebra 𝕜 R] : NormedAlgebra 𝕜 (R ⧸ I) :=
```
Comment (collares) [inline Mathlib/Analysis/Normed/Group/Quotient.lean:528]:
```suggestion
set_option synthInstance.etaExperiment true in -- Porting note: gets around lean4#2074
set_option maxHeartbeats 800000 in
instance Ideal.Quotient.normedAlgebra [NormedAlgebra 𝕜 R] : NormedAlgebra 𝕜 (R ⧸ I) :=
```

File: Mathlib/Data/Real/ENNReal.lean (hunk 1 above)
Comment (collares) [reply Mathlib/Data/Real/ENNReal.lean:2311]: leanprover-community/mathlib#18946

**Comment by semorrison** [comment]
bors merge

File: Mathlib/Analysis/Normed/Group/Quotient.lean [hunk 4]
```diff
@@ -97,61 +98,61 @@ the previous paragraph kicks in.
...
 #align add_subgroup.quotient_norm_eq AddSubgroup.quotient_norm_eq
 
-theorem image_norm_nonempty {S : AddSubgroup M} :
-    ∀ x : M ⧸ S, (norm '' { m | mk' S m = x }).Nonempty := by
-  rintro ⟨m⟩
-  rw [Set.nonempty_image_iff]
-  use m
-  change mk' S m = _
-  rfl
+theorem QuotientAddGroup.norm_eq_infDist {S : AddSubgroup M} (x : M ⧸ S) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/Quotient.lean:115]: Ideally these would have `--porting note: new`
